US05198451
(R)-N-(2-(3,3-Diphenyl-2-propen-1-yloxy)ethyl)-3-piperidinecarboxylic acid ethyl ester (Method B)
A solution of 2-(3,3-diphenyl-2-propen-1-yloxy)ethanol (3.0 g, 11.8 mmol) in dry THF (30 ml) kept under a nitrogen atmosphere was cooled to 10° C. and a solution of n-butyllithium in hexanes (5.0 ml, 2.5 M) was added dropwise. The reaction mixture was stirred for 0.5 h at room temperature and p-toluenesulphonyl chloride (2.3 g, 12.1 mmol) was added. The mixture was stirred at room temperature for 1 h. Ethyl (R)-3-piperidinecarboxylate (2.7 g, 17.7 mmol) and potassium carbonate (2.5 g, 17.7 mmol) were added and the mixture was heated at reflux temperature for 5 h. The cooled reaction mixture was poured into water (100 ml) and extracted with ethyl acetate (2×75 ml). The combined organic phases was washed with water and a sodium citrate buffer solution (2×100 ml, pH 6). The organic phase was then extracted with a 5% citric acid solution (3×75 ml) and the combined acidic aqueous extracts was washed with ethyl acetate (25 ml). To the acidic aqueous solution was added a 4 N sodium hydroxide solution until pH 11 and this solution was immediately extracted with ethyl acetate (3×50 ml). The combined organic extracts was dried over sodium sulphate and the solvent evaporated in vacuo to give 1.5 g (33%) of the title compound as an oil. TLC: rf=0.20 (SiO2 ; n-heptane/THF=7:3). 1H NMR (CDCl3)δ 4.08 (d, 2H); 6.22 (t, 1H).

reactant | 2-(3,3-diphenyl-2-propen-1-yloxy)ethanol | 11.8 mmol, 3.0 g | C1(=CC=CC=C1)C(=CCOCCO)C1=CC=CC=C1 | C17H18O2
reactant | n-butyllithium | C(CCC)[Li]
reactant | p-toluenesulphonyl chloride | 12.1 mmol, 2.3 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | Ethyl (R)-3-piperidinecarboxylate | 17.7 mmol, 2.7 g | N1C[C@@H](CCC1)C(=O)OCC | C8H15NO2
reactant | potassium carbonate | 17.7 mmol, 2.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | (R)-N-(2-(3,3-Diphenyl-2-propen-1-yloxy)ethyl)-3-piperidinecarboxylic acid ethyl ester | 1.5 g, 33% | C(C)OC(=O)[C@H]1CN(CCC1)CCOCC=C(C1=CC=CC=C1)C1=CC=CC=C1 | C25H31NO3
